US06228859B1
6-Amino-1-(3 -benzyloxy-4-methoxy-benzyl)-5-(2-benzyloxy-2-methyl-propionylamino)-2-thiouracil (46.54 g, 83 mmole) and 97% t-BuOK (38.41 g, 332 mmole) were heated under reflux in isopropanol (460 ml) for 50 minutes. The solvent was removed in vacuo, the residue dissolved in water (300 ml), treated twice with 5 g of charcoal, filtered, water added to a total volume of 500 ml and pH adjusted to neutral with a mixture of 5M HCl (60 ml) and sodium bicarbonate solution. The solid was collected at 10° C. to give 41.62 g of crude product, which was dissolved in dichloromethane (60 ml) and chromatographed over silicagel (126 g) using dichloromethane as eluant. Crystallization from methanol gave 3-(3-benzyloxy-4-methoxy-benzyl)-8-(1-benzyloxy-1-methyl-ethyl)-2-thioxanthine, (31.5 g, 69.9%) mp 290-302° C. (dec).

reactant | 6-Amino-1-(3 -benzyloxy-4-methoxy-benzyl)-5-(2-benzyloxy-2-methyl-propionylamino)-2-thiouracil | 83 mmole, 46.54 g | NC1=C(C(NC(N1CC1=CC(=C(C=C1)OC)OCC1=CC=CC=C1)=S)=O)NC(C(C)(C)OCC1=CC=CC=C1)=O | C30H32N4O5S
reactant | t-BuOK | 332 mmole, 38.41 g | CC(C)(C)[O-].[K+]
solvent | isopropanol | 460 ml | C(C)(C)O | C3H8O
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 3-(3-benzyloxy-4-methoxy-benzyl)-8-(1-benzyloxy-1-methyl-ethyl)-2-thioxanthine | 31.5 g, 69.9% | C(C1=CC=CC=C1)OC=1C=C(CN2C(NC(C=3NC(=NC23)C(C)(C)OCC2=CC=CC=C2)=O)=S)C=CC1OC | C30H30N4O4S
